US05869492
A mixture of the crude 3-(2-bromoacetyl)-5-chlorobenzo[b]thiophen (4.2 g), 2-imidazolidinethione (1 g), ethanol (15 ml) and acetic acid (10 ml) was heated under reflux under nitrogen for 18 hours, then allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with ethanol (15 ml), and dried in vacuo to give 3-(5-chlorobenzo[b]thiophen-3-yl)-5,6-dihydroimidazo[2,1-b]thiazole monohydrobromide as a white solid (2.1 g), m.p. 286°-288° C. (dec.).

reactant | 3-(2-bromoacetyl)-5-chlorobenzo[b]thiophen | 4.2 g | BrCC(=O)C=1C2=C(SC1)C=CC(=C2)Cl | C10H6BrClOS
reactant | 2-imidazolidinethione | 1 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-(5-chlorobenzo[b]thiophen-3-yl)-5,6-dihydroimidazo[2,1-b]thiazole monohydrobromide | 2.1 g | Br.ClC1=CC2=C(SC=C2C=2N3C(SC2)=NCC3)C=C1 | InChI=1S/C13H9ClN2S2.BrH/c14-8-1-2-12-9(5-8)10(6-17-12)11-7-18-13-15-3-4-16(11)13;/h1-2,5-7H,3-4H2;1H
